US07235569B2
A mixture of naphtho[1,2-b]furan-3 (2H)-one (1.85 g, 10 mmol) and (carboxymethylene)triphenylphosphorane (5.22 g, 15 mmol) was refluxed in toluene (100 ml) for 48 hrs. At the end, reaction mixture was concentrated and loaded over a silica-gel column. The column was eluted with hexane (500 ml) and later with 25% ethyl acetate. The product, naphtho[1,2-b]furan-3-yl-acetic acid ethyl ester was obtained as a white oil. Yield: 2.2 g (86%); 255 (M+H).

reactant | naphtho[1,2-b]furan-3 (2H)-one | 10 mmol, 1.85 g | O1C2=C(C(C1)=O)C=CC1=CC=CC=C12 | C12H8O2
reactant | (carboxymethylene)triphenylphosphorane | 15 mmol, 5.22 g | C(=O)(O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17O2P
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | naphtho[1,2-b]furan-3-yl-acetic acid ethyl ester | C(C)OC(CC=1C2=C(OC1)C1=CC=CC=C1C=C2)=O | C16H14O3
